US07723368B2
Step 1) 1-{[4-(difluoromethoxy)phenyl]ethynyl}-2-methylbenzene
The title compound was prepared in substantially the same manner as described in Example 12, step 3 starting from 1-Iodo-2-methyl-benzene (0.15 g, 0.69 mmol), and 1-Difluoromethoxy-4-ethynyl-benzene (0.116 g, 0.69 mmol), and was obtained as a light brown oil, (0.141 g, 79%), identified by NMR and mass spectral analyses. MS (EI+): 258 (M+).

reactant | 1-Iodo-2-methyl-benzene | 0.69 mmol, 0.15 g | IC1=C(C=CC=C1)C | C7H7I
reactant | 1-Difluoromethoxy-4-ethynyl-benzene | 0.69 mmol, 0.116 g | FC(OC1=CC=C(C=C1)C#C)F | C9H6F2O
product | 1-{[4-(difluoromethoxy)phenyl]ethynyl}-2-methylbenzene | FC(OC1=CC=C(C=C1)C#CC1=C(C=CC=C1)C)F | C16H12F2O
